data/mechanisms/records/IMS8-EQ8.54.json
{"mechanism_id": "IMS8-EQ8.54", "species": [{"species_id": "cyclic_oe_molecular_ion", "mapped_smiles": "[OH+:1][CH:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[OH+:1]=[CH:2][CH2:7][CH2:6][CH2:5][CH2:4][CH2:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "alpha_radical_isomer_ion", "mapped_smiles": "[OH+:1]=[CH:2][CH:7][CH2:6][CH2:5][CH2:4][CH3:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "conjugated_oxonium_c3h5o", "mapped_smiles": "[OH+:1]=[CH:2][CH:7]=[CH2:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "alkyl_radical_loss", "mapped_smiles": "[CH2:5][CH2:4][CH3:3]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclic_oe_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_after_rh", "species_ids": ["alpha_radical_isomer_ion"]}, {"state_id": "state_products", "species_ids": ["conjugated_oxonium_c3h5o", "alkyl_radical_loss"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rh_to_alpha_position", "from_state": "state_ring_opened", "to_state": "state_after_rh", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_alkyl_loss", "from_state": "state_after_rh", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.54", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "Shared first step of the 'OE+.' block: the same left-hand cyclic structure feeds the 8.53 row (upper alpha arrow) and this 8.54 row (lower alpha arrow), so the step is transcribed identically in IMS8-EQ8.53a/b. Radical-site alpha-cleavage of the n-ionized exocyclic substituent Y opens the carbocycle to the distonic ion Y+=CH-CH2-...-CH2. . Book draws 2 arc(s) on that structure; moves <1,2> are drawn (fishhook from the '+.' on Y into the forming Y=C pi bond, fishhook from the ring C-C bond into that same pi bond) and move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). INSTANTIATION (B/F): Y = OH, six-membered carbocycle = cyclohexanol molecular ion C6H12O+. m/z 100.0883, charge and odd electron on oxygen exactly where the book prints '+.'; the OH hydrogen is the curator's minimal completion of the book's bare 'Y'."}, {"evidence_id": "ev_step_rh", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rh_to_alpha_position", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.54", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.7, "curator_note": "First arrow of the 8.54 row, labelled 'rH': the terminal chain radical abstracts, through space, the hydrogen the book draws EXPLICITLY on the carbon alpha to the Y+=CH head, so the radical site migrates to that alpha carbon and the far end becomes CH3 (the book prints 'CH3' on the product). Book draws 2 arc(s): a fishhook from the terminal radical dot to the drawn H, and a fishhook from that C-H bond towards the radical carbon; a third homolysis hook leaving the second C-H electron on the donor carbon is implicit (not drawn on the page). ENCODING LIMITATION DISCLOSED: RDKit strips explicit hydrogens even when atom-mapped, so the migrating H cannot be a mapped atom and no C-H bond exists in the mapped topology. The three C-H fishhooks are therefore encoded as the single net one-electron transfer they sum to over the mapped atoms (odd electron 3 -> 7), the same convention already used for the gamma-H step of IMS4-EQ4.33. For the cyclohexanol instantiation this isomer is still C6H12O+. m/z 100.0883."}, {"evidence_id": "ev_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_alkyl_loss", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.54", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.7, "curator_note": "Second arrow of the 8.54 row, labelled 'alpha': textbook radical-site alpha-cleavage at the new radical site. The odd electron on the carbon alpha to Y+=CH pairs into a C=C pi bond with the next carbon, the following C-C sigma bond breaks, and an alkyl RADICAL is expelled (the book draws the neutral with a dot at one end and CH3 at the other). Product ion: the conjugated CH2=CH-CH=Y+. Book draws 2 arc(s); moves <1,2> are drawn (small fishhook from the radical dot into the forming pi bond, large fishhook from the next C-C bond curving up into that same pi bond) and move <3> is an implicit homolysis hook required for electron balance (not drawn on the page, though the expelled radical's dot is printed). RESONANCE (convention C): the product is written in the localised form the book draws, CH2=CH-CH=OH+; its partner .CH2-CH=CH-OH+ / +CH2-CH=CH-OH delocalisation is not encoded. For the cyclohexanol instantiation the ion is C3H5O+ m/z 57.0335 and the neutral the n-propyl radical C3H7. (43.0548)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c3h5o", "species_id": "conjugated_oxonium_c3h5o", "step_id": "step_alpha_alkyl_loss", "observed_mz": 57.0335, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
